US04394159
2-Chloro-3-phenoxy-6-nitroaniline
A solution of 911 gm (4 mole) of 2,3,4-trichloronitrobenzene was dissolved in 4 liters of dimethyl sulfoxide and mixed in a 10-liter autoclave with 400 ml of liquid ammonia. The autoclave was closed and kept at 50° C. for 24 hours, a pressure of 5.3 bars being set. After cooling of the mixture and ventilation of the pressure vessel, the mixture was removed and stirred in a 15 liter vessel with 400 gm of 40% (% by weight) sodium hydroxide solution. In so doing, ammonia escaped and was drawn off. Four hundred sixteen grams of phenol (4.4 mol) were then added to the solution which was heated to 50° C., and 440 gm of 40% by weight solution of sodium hydroxide solution were dropped therein. The mixture was stirred for 7 hours at 50°-60° C. To complete the reaction, 41 gm of phenol and 44 gm of 40% by weight solution of sodium hydroxide were added again, and the mixture was kept at 60° C. for a further 3 hours. The mixture was allowed to cool and was acidified with 100 ml of glacial acetic acid, and the product was precipitated with ice water by trituration. The yellowy brown solid crude product was extracted, washed with water, and dried. The crude product (980 gm m.p. 70°-78° C.) was recrystallized from 2.5 liters of isopropanol. The yield was 800 gm (75.5% of theory) of a yellowy brown solid, m.p. 81.5°-83.5° C.

reactant | 2,3,4-trichloronitrobenzene | 4 mole, 911 gm | ClC1=C(C=CC(=C1Cl)Cl)[N+](=O)[O-] | C6H2Cl3NO2
reactant | ammonia | N | H3N
reactant | phenol | 4.4 mol, Four hundred sixteen grams | C1(=CC=CC=C1)O | C6H6O
reactant | sodium hydroxide | [OH-].[Na+]
reactant | phenol | 41 gm | C1(=CC=CC=C1)O | C6H6O
solvent | dimethyl sulfoxide | 4 liters | CS(=O)C | C2H6OS
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
product | 2-Chloro-3-phenoxy-6-nitroaniline | ClC1=C(N)C(=CC=C1OC1=CC=CC=C1)[N+](=O)[O-] | C12H9ClN2O3
